US04284631
2-(2-Formamidothiazol-4-yl)-2-(4-tertbutoxycarbonylaminomethylbenzyloxyimino)acetic acid (syn isomer, 1.4 g.), N,N-dimethylformamide (0.29 g.), phosphoryl chloride (0.6 g.), 7-amino-3-cephem-4-carboxylic acid (0.65 g.), trimethylsilylacetamide (2.5 g.) and ethyl acetate (18 ml.) were treated in a similar manner to that of Example 11-(1) to give 7-[2-(2-formamidothiazol-4-yl)-2-(4-tertbutoxycarbonylaminomethylbenzyloxyimino)acetamido]-3-cephem-4-carboxylic acid (syn isomer, 1.4 g.).

reactant | 2-(2-Formamidothiazol-4-yl)-2-(4-tertbutoxycarbonylaminomethylbenzyloxyimino)acetic acid | 1.4 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC1=CC=C(C=C1)CNC(=O)OC(C)(C)C | C19H22N4O6S
reactant | phosphoryl chloride | 0.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-cephem-4-carboxylic acid | 0.65 g | NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O | C7H8N2O3S
reactant | trimethylsilylacetamide | 2.5 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | ethyl acetate | 18 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 0.29 g | CN(C=O)C | C3H7NO
product | 7-[2-(2-formamidothiazol-4-yl)-2-(4-tertbutoxycarbonylaminomethylbenzyloxyimino)acetamido]-3-cephem-4-carboxylic acid | 1.4 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC1=CC=C(C=C1)CNC(=O)OC(C)(C)C | C26H28N6O8S2
